US06673796B2
Step 1B 2-(2,6-difluorobenzyl)-6-phenyl-1,2,4-triazine-3,5-(2H)-dione
To a stirring suspension of 6-phenyl-1,2,4-triazine-3,5-(2H,4H)-dione (6.00 g, 31.7 mmol) in dry acetonitrile (50 mL) under nitrogen was added bis(trimethylsilyl)acetamide (15.7 mL, 63.4 mmol). The resulting yellow solution was heated at 80° C. for 3 hours. The solution was cooled and 2,6-difluorobenzyl bromide (8.20 g, 39.6 mmol) was added in one portion. The mixture was heated at 80° C. under nitrogen for an additional 15 hours. The resulting solution was cooled to room temperature, quenched with methanol (20 mL), and diluted with dichloromethane (175 mL). The mixture was washed with water (75 mL) and brine (70 mL), and dried over magnesium sulfate. Evaporation gave a tan solid that was triturated with cold diethyl ether (5×5 mL). After drying in vacuo, the compound was isolated as a flocculent, off-white solid (8.80 g, 88%).

reactant | 6-phenyl-1,2,4-triazine-3,5-(2H,4H)-dione | 31.7 mmol, 6.00 g | C1(=CC=CC=C1)C=1C(NC(NN1)=O)=O | C9H7N3O2
reactant | bis(trimethylsilyl)acetamide | 63.4 mmol, 15.7 mL | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 2,6-difluorobenzyl bromide | 39.6 mmol, 8.20 g | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(2,6-difluorobenzyl)-6-phenyl-1,2,4-triazine-3,5-(2H)-dione | 8.80 g, 88% | FC1=C(CN2N=C(C(NC2=O)=O)C2=CC=CC=C2)C(=CC=C1)F | C16H11F2N3O2
